US07345178B2
2-Bromo-2′-nitroacetophenone (7.65 g, 31.3 mmol) and 2-aminopyridine (2.95 g, 31.3 mmol) were dissolved in acetone (50 ml) and brought to reflux. After 10 minutes a light yellow/white precipitate forms in addition to strong boiling. Refluxing was continued for 3 hours and cooled to room temperature. The volume was reduced ½ by evaporation and the intermediate solids were collected by filtration and washed with acetone (20 ml) and air dried (7.26 g of intermediate). The intermediate (7.20 g) was dissolved in MeOH (100 ml) with HBr (4 drops, catalytic) and brought to reflux. The reaction was monitored by TLC (10% MeOH in CH2Cl2). After 70 minutes, the reaction mixture was cooled to room temperature, adjusted to pH=12 with 1 M NaOH, and concentrated to remove the methanol. The yellow product was collected by filtration, washed with water and air dried. 5.54 g (74%) of 2-(2-Nitro-phenyl)-imidazo[1,2-a]pyridine was obtained as a yellow crystalline solid (MS, M++H=240.1).

reactant | 2-Bromo-2′-nitroacetophenone | 31.3 mmol, 7.65 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 2-aminopyridine | 31.3 mmol, 2.95 g | NC1=NC=CC=C1 | C5H6N2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(2-Nitro-phenyl)-imidazo[1,2-a]pyridine | 5.54 g, 74% | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2N(C=CC=C2)C1 | C13H9N3O2
